US04295875
1,170 parts by weight of 2-methyl-2-aminopentan-4-ol is placed in a stirred flask. With external cooling, 440 parts by weight of acetaldehyde is run in over a period of about 40 minutes at 15°-20° C. The reaction mixture is stirred for a further 15 minutes at 20° C. After the addition of 600 parts by volume of toluene, 182 parts by weight of water is separated off over a period of 2 hours by azeotropic distillation. The reaction product is subjected to fractional distillation. After removal of the solvent there is obtained 1,372 parts by weight of 2,4,4,6-tetramethyltetrahydro-1,3-oxazine with a purity (according to gas chromatography) of 98%, equivalent to a yield of 94% of theory, based on 2-methyl-2-aminopentan-4-ol.

reactant | 2-methyl-2-aminopentan-4-ol | CC(C)(CC(C)O)N | C6H15NO
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2,4,4,6-tetramethyltetrahydro-1,3-oxazine | yield of 94% | CC1OC(CC(N1)(C)C)C | C8H17NO
